US04318912
Benzyl 6-(1-hydroxyethyl)-1-azabicyclo[3.2.0]heptane-3,7-dione-2-carboxylate (30 mg) is dissolved in dioxane (2 ml). The solution is treated with ethanol (0.5 ml), H2O (0.5 ml), NaHCO3 (8.5 mg) and 10% Pd/C (20 mg) and the resulting mixture is hydrogenated at 40 psi for 1 hr. The mixture is filtered to remove the catalyst which is washed with H2O (2.5 ml). The combined filtrate is extracted with ethyl acetate (3×2 ml), concentrated in vacuo, and lyophilized to provide sodium 6-(1-hydroxyethyl)-1-azabicyclo[3.2.0]heptane-3,7-dione-2-carboxylate.

reactant | Benzyl 6-(1-hydroxyethyl)-1-azabicyclo[3.2.0]heptane-3,7-dione-2-carboxylate | 30 mg | OC(C)C1C2CC(C(N2C1=O)C(=O)OCC1=CC=CC=C1)=O | C16H17NO5
reactant | ethanol | 0.5 ml | C(C)O | C2H6O
reactant | H2O | 0.5 ml | O | H2O
reactant | NaHCO3 | 8.5 mg | C(=O)(O)[O-].[Na+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | sodium 6-(1-hydroxyethyl)-1-azabicyclo[3.2.0]heptane-3,7-dione-2-carboxylate | OC(C)C1C2CC(C(N2C1=O)C(=O)[O-])=O.[Na+] | InChI=1S/C9H11NO5.Na/c1-3(11)6-4-2-5(12)7(9(14)15)10(4)8(6)13;/h3-4,6-7,11H,2H2,1H3,(H,14,15);/q;+1/p-1
